US04721721
The Preparation of 6-(2-Guanidinothiazol-4-yl)-3,4-Dihydrocarbostyril
A mixture of 6-(chloroacetyl)-3,4-dihydrocarbostyril (7 g), amidinothiourea (3.8 g) and absolute ethanol (250 ml) is stirred under reflux for about 24 hours. The reaction mixture is cooled to ice bath temperature and the precipitate filtered, washed with ethanol, and dried. The solid is suspended in aqueous sodium hydroxide, filtered, the filtered solid washed with water, and dried in vacuo. The dried solid is recrystallized from 50% aqueous DMF, and dried in vacuo yielding the desired product, M.P. >250° C.

reactant | 6-(chloroacetyl)-3,4-dihydrocarbostyril | 7 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | amidinothiourea | 3.8 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-(2-Guanidinothiazol-4-yl)-3,4-Dihydrocarbostyril | N(C(=N)N)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C13H13N5OS
